US06545017B1
N-[2-(4-amino-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-1-yl)ethyl]morpholin-4-ylcarboxamide
Using the method of Examples 118-133, 4-morpholinecarbonyl chloride was reacted with 1-(2-aminoethyl)-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-4-amine to provide the desired compound. The observed accurate mass was 333.2025.

reactant | 4-morpholinecarbonyl chloride | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
reactant | 1-(2-aminoethyl)-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-4-amine | NCCN1C(=NC=2C(=NC(=C(C21)C)C)N)C | C11H17N5
product | N-[2-(4-amino-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-1-yl)ethyl]morpholin-4-ylcarboxamide | NC1=NC(=C(C2=C1N=C(N2CCNC(=O)N2CCOCC2)C)C)C | C16H24N6O2
